US04175189
20 G. of 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide are mixed with 250 ml. of methylene chloride and 35 ml. of triethylamine, stirred and cooled to 5° C. The mixture is treated with 45 ml. of chloroformic acid butyl ester and stirred at room temperature for 6 hours. The mixture obtained is washed with water, extracted with methylene chloride and evaporated under reduced pressure. The residue is recrystallized from ethanol, there being obtained dibutyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 131°-132° C.

reactant | 2,4-diamino-6-[3,6-dihydro-1(2H)-pyridyl]pyrimidine-3-oxide | NC1=NC(=CC(=[N+]1[O-])N)N1CCC=CC1 | C9H13N5O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroformic acid butyl ester | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | dibutyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OCCCC)[O-])NC(=O)OCCCC | C19H29N5O5
